US09315458B2
F) methyl 4-ethyl-2-hydroxy-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate
A mixture of methyl 4-ethyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.41 g), 3-(4-(bromomethyl)phenyl)-1-methyl-1H-pyrazole (0.44 g), sodium carbonate (0.28 g), tetrakis(triphenylphosphine)palladium(0) (0.15 g), DME (15.0 mL) and water (5.0 mL) was stirred overnight at 90° C. under argon atmosphere. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.26 g).

reactant | methyl 4-ethyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.41 g | C(C)C1=CC(=C(C(=O)OC)C=C1B1OC(C(O1)(C)C)(C)C)O | C16H23BO5
reactant | 3-(4-(bromomethyl)phenyl)-1-methyl-1H-pyrazole | 0.44 g | BrCC1=CC=C(C=C1)C1=NN(C=C1)C | C11H11BrN2
reactant | sodium carbonate | 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 15.0 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5.0 mL | O | H2O
product | methyl 4-ethyl-2-hydroxy-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate | 0.26 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)O | C21H22N2O3
